US08067426B2
6-Amino-2-(cyclopentyloxy)-9-[4-(1-piperidinyl)butyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 29 from 9-(4-chlorobutyl)-2-(cyclopentyloxy)-8-(methyloxy)-9H-purin-6-amine and piperidine.

reactant | 9-(4-chlorobutyl)-2-(cyclopentyloxy)-8-(methyloxy)-9H-purin-6-amine | ClCCCCN1C2=NC(=NC(=C2N=C1OC)N)OC1CCCC1 | C15H22ClN5O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 6-Amino-2-(cyclopentyloxy)-9-[4-(1-piperidinyl)butyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OC1CCCC1)CCCCN1CCCCC1)=O | C19H30N6O2
